### PR TITLE
[Merged by Bors] - feat: ContinuousAlgEquiv.toContinuousLinearEquiv

### PR DESCRIPTION
**Pull request by bwangpj**
From FLT. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -120,6 +121,19 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+to a continuous linear isomorphism. -/
+@[coe]
+def toContinuousLinearEquiv (e : A ≃A[R] B) : A ≃L[R] B where
+  __ := e.toLinearEquiv
+  continuous_toFun := e.continuous_toFun
+  continuous_invFun := e.continuous_invFun
+
+instance : Coe (A ≃A[R] B) (A ≃L[R] B) := ⟨toContinuousLinearEquiv⟩
+
+theorem toContinuousLinearEquiv_apply (e : A ≃A[R] B) (a : A) :
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean:133]: Should this be `simp`?

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 2]
```diff
@@ -120,6 +121,20 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
 @[simp]
 theorem coe_toAlgEquiv (e : A ≃A[R] B) : ⇑e.toAlgEquiv = e := rfl
 
+/-- The natural coercion from a continuous algebra isomorphism
+to a continuous linear isomorphism. -/
+@[coe]
+def toContinuousLinearEquiv (e : A ≃A[R] B) : A ≃L[R] B where
+  __ := e.toLinearEquiv
+  continuous_toFun := e.continuous_toFun
+  continuous_invFun := e.continuous_invFun
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean]:
```suggestion
def toContinuousLinearEquiv (e : A ≃A[R] B) : A ≃L[R] B :=
  { e with __ := e.toLinearEquiv }
```

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 3]
```diff
@@ -120,6 +121,20 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+
+instance : Coe (A ≃A[R] B) (A ≃L[R] B) := ⟨toContinuousLinearEquiv⟩
+
+@[simp]
+theorem toContinuousLinearEquiv_apply (e : A ≃A[R] B) (a : A) :
+  e.toContinuousLinearEquiv a = e a := rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean]:
```suggestion
    e.toContinuousLinearEquiv a = e a := rfl
```
maybe also add this
```lean
@[simp] theorem toContinuousLinearMap_toContinuousAlgHom_eq (e : A ≃A[R] B) :
    e.toContinuousAlgHom.toContinuousLinearMap = e := rfl
```

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean]: That proposed lemma looks confusing, you should write explicitly what you expect the RHS to be (without coercions)

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 4]
```diff
@@ -120,6 +121,20 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean:143]: Some more lemmas you should add (or their reflections):
* `e.toContinuousLinearEquiv.toLinearEquiv = e.toAlgEquiv.toLinearEquiv`
* `e.toContinuousLinearEquiv.symm = e.symm.toContinuousLinearEquiv`
* `refl.toContinuousLinearEquiv = refl`
* `(e.trans f).toContinuousLinearEquiv = e.toContinuousLinearEquiv .trans f.toContinuousLinearEquiv`

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:143]: Ah, I see @themathqueen already mentioned the second of these above!

Comment (bwangpj) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:143]: I added all of these except the linter complains that `LHS equals RHS syntactically` in `refl.toContinuousLinearEquiv = refl`

**Comment by bwangpj** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:143]: Try changing the rhs to `.refl`

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 5]
```diff
@@ -120,6 +121,28 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+@[simp]
+theorem toContinuousLinearEquiv_apply (e : A ≃A[R] B) (a : A) :
+    e.toContinuousLinearEquiv a = e a := rfl
+
+@[simp]
+theorem toContinuousLinearEquiv_toContinuousLinearMap_eq (e : A ≃A[R] B) :
+    e.toContinuousLinearEquiv.toContinuousLinearMap
+    = e.toContinuousAlgHom.toContinuousLinearMap := rfl
+
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean]: This probably shouldn't be simp, neither side is really simpler.

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 6]
```diff
@@ -212,6 +235,10 @@ theorem symm_toAlgEquiv (e : A ≃A[R] B) : e.symm.toAlgEquiv = e.toAlgEquiv.sym
 @[simp]
 theorem symm_toHomeomorph (e : A ≃A[R] B) : e.symm.toHomeomorph = e.toHomeomorph.symm := rfl
 
+@[simp]
+theorem symm_toContinuousLinearEquiv (e : A ≃A[R] B) :
+    e.symm.toContinuousLinearEquiv = e.toContinuousLinearEquiv.symm := rfl
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean:242]: My guess is that this is backwards, but let's see if @sgouezel remembers

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:242]: the naming is backwards, I think it should be `toContinuousLinearEquiv_symm` if you keep it in this direction

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 7]
```diff
@@ -120,6 +121,28 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+  { e with __ := e.toLinearEquiv }
+
+instance : Coe (A ≃A[R] B) (A ≃L[R] B) := ⟨toContinuousLinearEquiv⟩
+
+@[simp]
+theorem toContinuousLinearEquiv_apply (e : A ≃A[R] B) (a : A) :
+    e.toContinuousLinearEquiv a = e a := rfl
+
+@[simp]
+theorem toContinuousLinearEquiv_toContinuousLinearMap_eq (e : A ≃A[R] B) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean]:
```suggestion
theorem toContinuousLinearMap_toContinuousLinearEquiv_eq (e : A ≃A[R] B) :
```

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 8]
```diff
@@ -120,6 +121,28 @@ theorem coe_inj {f g : A ≃A[R] B} : (f : A →A[R] B) = g ↔ f = g :=
...
+    e.toContinuousLinearEquiv.toContinuousLinearMap
+    = e.toContinuousAlgHom.toContinuousLinearMap := rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean:138]: does this not work?
```suggestion
    = (e : A →L[R] B) := rfl
```

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 9]
```diff
@@ -227,6 +254,11 @@ theorem trans_toAlgEquiv (e₁ : A ≃A[R] B) (e₂ : B ≃A[R] C) :
     (e₁.trans e₂).toAlgEquiv = e₁.toAlgEquiv.trans e₂.toAlgEquiv :=
   rfl
 
+@[simp]
+theorem trans_toContinuousLinearEquiv (e₁ : A ≃A[R] B) (e₂ : B ≃A[R] C) :
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean:260]:
```suggestion
theorem toContinuousLinearEquiv_trans (e₁ : A ≃A[R] B) (e₂ : B ≃A[R] C) :
```

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:138]: Thats a bad idea because it might randomly change to being a syntactic tautology (if the coercions fire in a different order)

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:138]: Ah, I see. Fair point.

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:138]: This probably shouldn't be a simp either then.

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean (hunk 9 above)
Comment (bwangpj) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:260]: But the previous lemma is `trans_toAlgEquiv`; should we change the naming of the previous lemma (and some others) then?

Comment (themathqueen) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:260]: Yeah, do the change here (only `trans_toAlgEquiv` though, I don't know if the rest should be changed in this PR). And add a deprecation.

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:260]: I disagree; let's be consistent within the file for now, and fix this globally after a Zulip discussion in a future pr

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean [hunk 10]
```diff
@@ -212,6 +237,10 @@ theorem symm_toAlgEquiv (e : A ≃A[R] B) : e.symm.toAlgEquiv = e.toAlgEquiv.sym
 @[simp]
 theorem symm_toHomeomorph (e : A ≃A[R] B) : e.symm.toHomeomorph = e.toHomeomorph.symm := rfl
 
+@[simp]
+theorem symm_toContinuousLinearEquiv (e : A ≃A[R] B) :
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Algebra/Equiv.lean]:
```suggestion
theorem toContinuousLinearEquiv_symm (e : A ≃A[R] B) :
```

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:260]: I agree with @eric-wieser here

File: Mathlib/Topology/Algebra/Algebra/Equiv.lean (hunk 6 above)
Comment (dagurtomas) [reply Mathlib/Topology/Algebra/Algebra/Equiv.lean:242]: Yes, this should be `toContinuousLinearEquiv_symm`
